US05008266
(a) 2-(2-Diethylaminoethylthio)-3-phenyl-4(3H)-quinazolinone
The title compound was prepared in a yield of 32.7%, using 2-mercapto-3-phenyl-4(3H)-quinazolinone in place of 3-isobutyl-2-mercapto-4(3H)-quinazoline and β-diethylaminoethyl chloride hydrochloride in place of 2-chloromethylpyridine hydrochloride.

reactant | 2-mercapto-3-phenyl-4(3H)-quinazolinone | SC1=NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O | C14H10N2OS
reactant | β-diethylaminoethyl chloride hydrochloride | Cl.C(C)N(CCCl)CC
product | 2-(2-Diethylaminoethylthio)-3-phenyl-4(3H)-quinazolinone | yield of 32.7% | C(C)N(CCSC1=NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O)CC | C20H23N3OS
